US05464867
4-(3,4-Dioxo-2-ethoxy-cyclobut-1-enylamino)-benzonitrile (1 g, 4.1 mmol) and 2,2,3,3,3-pentafluoropropylamine (3 mL) in ethanol were refluxed for 24 hours. The reaction mixture was filtered and the resulting solid was triturated with diethyl ether to give 1.0 g (71%) of 4-[3,4-dioxo-2-(2,2,3,3,3-pentafluoro-propylamino)cyclobut-1-enylamino]-benzonitrile as a yellow solid: mp 272°-275° C. (dec); 1H NMR (DMSO-d6): δ10.15 (br s, 1H), 8.19 (br s, 1H), 7.81 (d, 2H), 7.79 (d, 2H), 4.54 (dr, 2H). IR (KBr): 3185, 2239, 1804, 1672, 1608, 1565, 1548 cm-1 ; MS (m/z) 346 ([M+H]+).

reactant | 4-(3,4-Dioxo-2-ethoxy-cyclobut-1-enylamino)-benzonitrile | 4.1 mmol, 1 g | O=C1C(=C(C1=O)NC1=CC=C(C#N)C=C1)OCC | C13H10N2O3
reactant | 2,2,3,3,3-pentafluoropropylamine | 3 mL | FC(CN)(C(F)(F)F)F | C3H4F5N
solvent | ethanol | C(C)O | C2H6O
product | 4-[3,4-dioxo-2-(2,2,3,3,3-pentafluoro-propylamino)cyclobut-1-enylamino]-benzonitrile | 1.0 g, 71% | O=C1C(=C(C1=O)NC1=CC=C(C#N)C=C1)NCC(C(F)(F)F)(F)F | C14H8F5N3O2
